US07897767B2
tert-Butyl 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butylcarbamate (4.05 g, 9.40 mmol) was dissolved in 4 M HCl in dioxane (25 mL). Almost immediately, a solid precipitated and methanol was added (25 mL). After 10 minutes, the reaction mixture was concentrated under reduced pressure and the residue was dried under vacuum. The residue was dissolved in dichloromethane (50 mL) and the solution was cooled to 0° C., then triethylamine (5.24 mL, 37.6 mmol) was added followed by methanesulfonic anhydride (2.46 g, 14.1 mmol). After 10 minutes, more triethylamine and methanesulfonic anhydride (2 equivalents each) were added and stirring was continued for 50 minutes. The reaction mixture was partitioned between saturated aqueous sodium bicarbonate (20 mL) and dichloromethane (40 mL). The aqueous layer was extracted with dichloromethane (2×15 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate (2×20 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield an off-white solid. The solid was dissolved in dichloromethane/chloroform and the solution was transferred to a separatory funnel. The solution was washed with saturated aqueous sodium carbonate, water, and saturated aqueous sodium carbonate. The solution was dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield 2.1 g of N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}methanesulfonamide.

reactant | tert-Butyl 4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butylcarbamate | 9.40 mmol, 4.05 g | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(OC(C)(C)C)=O | C18H26ClN7O2
reactant | triethylamine | 37.6 mmol, 5.24 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 14.1 mmol, 2.46 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 2 equivalents | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane chloroform | ClCCl.C(Cl)(Cl)Cl
product | N-{4-[8-(chloromethyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}methanesulfonamide | 2.1 g | ClCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNS(=O)(=O)C | C14H20ClN7O2S
